US07655666B2
A solution of 2-acetylamino-5-(1-hydroxy-propyl)-4-trifluoromethyl-benzoic acid methyl ester (262 mg, 0.82 mmol) in DCM (1.3 mL) was added to a solution of Dess-Martin periodinane (556 mg, 1.31 mmol) in DCM (2.6 mL) and the mixture was stirred for 1 h at r.t. It was then poured into aqueous sodium thiosulfate and this mixture was extracted with EtOAc. The organic phase was then washed twice with aqueous potassium hydrogencarbonate (pH=8), once with brine, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo to give crude 2-acetylamino-5-propionyl-4-trifluoromethyl-benzoic acid methyl ester as a white solid which was used without further purification in the next step, ESI-MS: m/z 318 [M+H]+.

reactant | 2-acetylamino-5-(1-hydroxy-propyl)-4-trifluoromethyl-benzoic acid methyl ester | 0.82 mmol, 262 mg | COC(C1=C(C=C(C(=C1)C(CC)O)C(F)(F)F)NC(C)=O)=O | C14H16F3NO4
reactant | Dess-Martin periodinane | 1.31 mmol, 556 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | DCM | 1.3 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 2.6 mL | C(Cl)Cl | CH2Cl2
product | 2-acetylamino-5-propionyl-4-trifluoromethyl-benzoic acid methyl ester | COC(C1=C(C=C(C(=C1)C(CC)=O)C(F)(F)F)NC(C)=O)=O | C14H14F3NO4
